US04513009
N-[3-Acetylthio-2-benzylpropanoyl]glycine benzyl ester
To a stirred ice-cold solution of 2.85 g (12 mmoles) 3-acetylthio-2-benzylpropanoic acid in 20 ml THF are successively added a mixture of 4.04 g (12 mmoles) glycine benzyl ester p.tosylate and 1.71 ml triethylamine in 20 ml CHCl3, a solution of 1.83 g (12 mmoles) HOBT in 15 ml THF, and a solution of 2.63 g (12.8 mmoles) DCC in 10 ml CHCl3.

reactant | 3-acetylthio-2-benzylpropanoic acid | 12 mmoles, 2.85 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | glycine benzyl ester | 12 mmoles, 4.04 g | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | HOBT | 12 mmoles, 1.83 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 12.8 mmoles, 2.63 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.71 ml | C(C)N(CC)CC | C6H15N
product | N-[3-Acetylthio-2-benzylpropanoyl]glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(C(CSC(C)=O)CC1=CC=CC=C1)=O)=O | C21H23NO4S
